US07994187B2
2-Aminothiazole (I31) (1.0 equiv., 5.00 mmol, 0.500 g) and 2-formylbenzoic acid (I32) (1.2 equiv., 6.00 mmol, 0.900 g) were mixed in ethanol (8 ml) and heated at reflux for 2 h. Upon cooling, a precipitate was formed. The product was isolated by filtration and washed with isopropyl ether to afford 3-(2-thiazolylamino)-isobenzofuran-1(3H)-one (I33) (0.944 g, yield=81%).

reactant | 2-Aminothiazole | 5.00 mmol, 0.500 g, 1.0 equiv. | NC=1SC=CN1 | C3H4N2S
reactant | 2-formylbenzoic acid | 6.00 mmol, 0.900 g, 1.2 equiv. | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(2-thiazolylamino)-isobenzofuran-1(3H)-one | 0.944 g, yield=81% | S1C(=NC=C1)NC1OC(C2=CC=CC=C12)=O | C11H8N2O2S
